US09255089B2
Step 2: Methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluoro-3-nitrobenzoate
To a mixture of methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluorobenzoate (14 g, 53 mmol, 1 equiv.) and TFA (100 mL) is slowly added nitronium tetrafluoroborate (9.1 g, 68.9 mmol, 1.3 equiv.). After completion, the mixture was concentrated under reduced pressure. The residue was dissolved and then the residue was dissolved in EtOAc (200 ml) and washed with brine (30 ml×2). The organic solvent was evaporated. Methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluoro-3-nitrobenzoate was used without further purification. 1H NMR (400 MHz, Chloroform-d) δ 6.92 (d, J=5.8 Hz, 1H), 4.24 (s, 4H), 4.07-3.85 (m, 5H), 2.46-2.34 (m, 4H), 2.31-2.22 (m, 5H).

reactant | methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluorobenzoate | 53 mmol, 14 g, 1 equiv. | NC1=C(C(=O)OC)C=C(C(=C1)F)C=1C(=NOC1C)C | C13H13FN2O3
reactant | nitronium tetrafluoroborate | 68.9 mmol, 9.1 g, 1.3 equiv. | F[B-](F)(F)F.O=[N+]=O
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluoro-3-nitrobenzoate | NC1=C(C(=O)OC)C=C(C(=C1[N+](=O)[O-])F)C=1C(=NOC1C)C | C13H12FN3O5
